US05180824
Triethylamine (0.40 mL) was added via syringe to a solution of 6-azido-2-fluoropurine (0.256 g) and 1,3-propanedithiol (0.29 mL) in methanol (13.5 mL). After 15 minutes the reaction was complete as judged by TLC and a white precipitate had formed. The precipitate was collected by filtration and washed with two 10 mL portions of methanol and then dried to obtain 0.203 g of 2-fluoroadenine, mp>300° C. This material was identical to an authentic sample by TLC, NMR and IR.

reactant | Triethylamine | 0.40 mL | C(C)N(CC)CC | C6H15N
reactant | 6-azido-2-fluoropurine | 0.256 g | N(=[N+]=[N-])C1=C2NC=NC2=NC(=N1)F | C5H2FN7
reactant | 1,3-propanedithiol | 0.29 mL | C(CCS)S | C3H8S2
solvent | methanol | 13.5 mL | CO | CH4O
product | 2-fluoroadenine | 0.203 g | FC1=NC(=C2NC=NC2=N1)N | C5H4FN5
